US07081454B2
[1-(3-Chloro-phenyl)-2-nitro-ethoxy]-triethyl-silane:
To a solution of 1-(3-chloro-phenyl)-2-nitro-ethanol (26 g, 0.14 mol) in DMF (50 mL) were added imidazole (28.6 g, 0.42 mol) and chlorotriethylsilane (25.3 g, 0.17 mol). The reaction mixture was stirred at room temperature for 2 h. After quenching with water, the mixture was extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried over Na2SO4, and filtered. After removal of solvent, the crude product was purified by flash chromatography (2% EtOAc/hexane) to yield the title compound (37 g, 91%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 7.40 (1H, s), 7.27–7.32 (3H, m), 5.40 (1H, dd, J=3.2, 9.5 Hz), 4.51 (1H, dd, J=9.5, 12.1 Hz), 4.36 (1H, dd, J=3.3, 12.1 Hz), 0.85 (9H, t, J=7.5 Hz), 0.54 (6H, q, J=7.5 Hz).

reactant | 1-(3-chloro-phenyl)-2-nitro-ethanol | 0.14 mol, 26 g | ClC=1C=C(C=CC1)C(C[N+](=O)[O-])O | C8H8ClNO3
reactant | imidazole | 0.42 mol, 28.6 g | N1C=NC=C1 | C3H4N2
reactant | chlorotriethylsilane | 0.17 mol, 25.3 g | Cl[Si](CC)(CC)CC | C6H15ClSi
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | [1-(3-Chloro-phenyl)-2-nitro-ethoxy]-triethyl-silane | 37 g, 91% | ClC=1C=C(C=CC1)C(C[N+](=O)[O-])O[Si](CC)(CC)CC | C14H22ClNO3Si
